US09056873B2
Step F: 7-(Tributylstannyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine
To a cold (−78° C.) mixture of 7-iodo-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine (300 mg, 1.205 mmol) and THF (10 mL) was added n-butyllithium (0.530 mL, 1.325 mmol) dropwise under a nitrogen atmosphere. The reaction mixture was stirred at −78° C. for 60 minutes, after which tributylchlorostannane (0.392 mL, 1.445 mmol) was added. The reaction mixture was stirred at −78° C. 60 minutes, then warmed to room temperature and stirred for 1 hour. The reaction was quenched with brine (10 mL) and extracted with EtOAc (2×25 mL). The organic phase was separated, dried over sodium sulfate, concentrated, and purified via flash column chromatography to give the title compound as an oil, which was used without further purification (300 mg, 60%).

reactant | 7-iodo-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine | 1.205 mmol, 300 mg | IC=1C=C2COCCN2C1 | C7H8INO
reactant | n-butyllithium | 1.325 mmol, 0.530 mL | C(CCC)[Li]
reactant | tributylchlorostannane | 1.445 mmol, 0.392 mL | C(CCC)[Sn](Cl)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7-(Tributylstannyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine | C(CCC)[Sn](C=1C=C2COCCN2C1)(CCCC)CCCC | InChI=1S/C7H8NO.3C4H9.Sn/c1-2-7-6-9-5-4-8(7)3-1;3*1-3-4-2;/h2-3H,4-6H2;3*1,3-4H2,2H3;
